US04172204
To 5 l of a methylene chloride solution containing 550 g of 1-(2',6'-dichlorophenyl)-2-(2',3'-bis-methoxycarbonylguanidino) ethanol was added 530 ml of triethylamine. The mixture was stirred until a clear solution formed. Mesyl chloride, 160 ml was then added dropwise with stirring at such a rate that the solution temperature did not pass 35° C. The reaction was complete after 30 minutes. One liter of methanol was added to the reaction mass and the resulting mixture filtered. To the filtrate was added 4 l of methanol and a solution of 270 g of sodium hydroxide in 550 ml of deionized water. The mixture was vigorously agitated and heated to about 40° C. for one hour. The reaction solution was then vacuum distilled until approximately 5 l of distillate had been collected. After addition of 8 l of deionized water to the distillation flask, vacuum distillation was continued, collecting 3 l of distillate. The pot residue was cooled to about 20° C. and stirred for about 1 hour. The imidazole product precipitated from the residual reaction solution and was filtered, washed with 3 l of deionized water then 1 liter of methanol. Drying at 65° C. in a vacuum oven gave 403 g of 4,5-dihydro-2-methoxycarbonylamino-5-(2',6'-dichlorophenyl)imidazole, m.p. 231°-232° C. (dec.).

reactant | methylene chloride | 5 l | C(Cl)Cl | CH2Cl2
reactant | 1-(2',6'-dichlorophenyl)-2-(2',3'-bis-methoxycarbonylguanidino) ethanol | 550 g | ClC1=C(C(=CC=C1)Cl)C(CNC(=NC(=O)OC)NC(=O)OC)O | C13H15Cl2N3O5
reactant | triethylamine | 530 ml | C(C)N(CC)CC | C6H15N
reactant | Mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | methanol | One liter | CO | CH4O
product | 4,5-dihydro-2-methoxycarbonylamino-5-(2',6'-dichlorophenyl)imidazole | 403 g | COC(=O)NC=1NC(CN1)C1=C(C=CC=C1Cl)Cl | C11H11Cl2N3O2
